datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]CC)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)O[H])C1=CC=CC=C1)CCCCCC>>C(C([O-:21])C)(C(O[C:20](=[O:10])O[H])C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1[H])C)CCCCCC.[O-:21][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CCCCCC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C([C:20](C)=[O:21])[H]>>[O-:21][C:20]1(C)[O+:10]([K])C(CC)C(C)C1[H] 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)C)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)C)CCCCCC 21=20;20,10=10"
"[OH:10]C(C)C(C)C(C)C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C(C)C(C)C(C)[OH+:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)[H])[H]>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)[H])[H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)C1=CC=CC=C1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][H])([O]CC)[S]CC.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O]CC)[S]CC 21=20;20,10=10"
"CCN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)O[H])C>>CCN([C:20](=[O:10])O[H])C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[O]2.CC[S:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(O)C(O)C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)C(O)C(O)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(CC)[S]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(CC)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:10]C(CCC)C([H])/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C([H])C(CCC)[O:10]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)C 10=20;20,21=21"
